US08624034B2
Step C) (2R)-4-[5-Fluoro-4-(4-isoxazol-3-ylphenyl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide
A solution of 1.0 M aq HCl (15 mL) was added slowly to a solution of (2R)-4-[5-fluoro-4-(4-isoxazol-3-ylphenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (655 mg, 1.23 mmol) in 1,4-dioxane (30 mL) at rt. The reaction was allowed to stir at rt overnight. The reaction was concentrated to a crude material. Water (30 mL) was added to the crude material and the mixture was boiled for 5 minutes. The mixture was allowed to cool to rt and the solid that formed was collected via filtration and dried under high vacuum to afford the title compound as a light yellow solid (314 mg, 56.9%). MS (APCI) m/z 450.1 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.55 (s, 3H) 2.10-2.21 (m, 1H) 2.42-2.49 (m, 1H) 3.09 (s, 3H) 3.66-3.85 (m, 1H) 3.96-4.09 (m, 1H) 6.59 (d, J=7.61 Hz, 1H) 7.21 (d, J=1.56 Hz, 1H) 7.71 (dd, J=8.39, 1.76 Hz, 2H) 8.00 (d, J=8.39 Hz, 2H) 8.04 (d, J=6.44 Hz, 1H) 9.03 (d, J=1.56 Hz, 1H) 9.16-9.28 (m, 1H) 11.06 (s, 1H).

reactant | HCl | 1.0 M, 15 mL | Cl | ClH
reactant | (2R)-4-[5-fluoro-4-(4-isoxazol-3-ylphenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 1.23 mmol, 655 mg | FC=1C(=CC(N(C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)C1=NOC=C1 | C25H28FN3O7S
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | (2R)-4-[5-Fluoro-4-(4-isoxazol-3-ylphenyl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 314 mg, 56.9% | FC=1C(=CC(N(C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)C1=NOC=C1 | C20H20FN3O6S
